US08871782B2
To a stirring solution of tert-butyl 4-{[2-(ethoxymethyl)-1-(2-hydroxy-2-methylpropyl)-1H-imidazo[4,5-c]quinolin-7-yl]oxy}piperidine-1-carboxylate (3.32 g, 6.66 mmol) in chloroform (70 mL) was added 3-chloroperoxybenzoic acid (2.29 g, 6.66 mmol, based on 50% purity). After 30 minutes, concentrated ammonium hydroxide (35 mL) was added and the reaction was stirred for 15 minutes. p-Toluenesulfonyl chloride (1.27 g, 6.66 mmol) was added in one portion and stirring was continued for 16 additional hours. The layers were separated and the organic fraction was washed with water, then saturated aqueous sodium chloride. The organic fraction was evaporated under reduced pressure and the residue was purified by chromatography on a HORIZON HPFC system (silica gel, gradient elution with 2-28% CMA in chloroform), followed by recrystallization from acetonitrile to afford 0.630 g of tert-butyl 4-{[4-amino-2-(ethoxymethyl)-1-(2-hydroxy-2-methylpropyl)-1H-imidazo[4,5-c]quinolin-7-yl]oxy}piperidine-1-carboxylate as a tan crystalline solid, mp 214-215° C., decomposition.

reactant | tert-butyl 4-{[2-(ethoxymethyl)-1-(2-hydroxy-2-methylpropyl)-1H-imidazo[4,5-c]quinolin-7-yl]oxy}piperidine-1-carboxylate | 6.66 mmol, 3.32 g | C(C)OCC=1N(C2=C(C=NC=3C=C(C=CC23)OC2CCN(CC2)C(=O)OC(C)(C)C)N1)CC(C)(C)O | C27H38N4O5
reactant | 3-chloroperoxybenzoic acid | 6.66 mmol, 2.29 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | ammonium hydroxide | 35 mL | [OH-].[NH4+]
reactant | p-Toluenesulfonyl chloride | 6.66 mmol, 1.27 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | chloroform | 70 mL | C(Cl)(Cl)Cl | CHCl3
product | tert-butyl 4-{[4-amino-2-(ethoxymethyl)-1-(2-hydroxy-2-methylpropyl)-1H-imidazo[4,5-c]quinolin-7-yl]oxy}piperidine-1-carboxylate | 0.630 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC(C)(C)O)COCC)OC2CCN(CC2)C(=O)OC(C)(C)C | C27H39N5O5
